US06589970B2
Prepared in the same manner as described in step 4 of Example 48 and replacing 6-(benzylamino-methyl)-naphthalen-2-ol with 6-butylaminomethyl-naphthalen-2-ol, prepared in step 3 of Example 51, and replacing 2-butyl-benzofuran-3-carbonyl chloride with 2-methy-benzofuran-3-carbonyl chloride, prepared in step 2 of Example 20. Purification of the crude product on 300 g silica gel (230-400 mesh) using 25%-33% ethyl acetate in hexane as the eluent gave 2-methyl-benzofuran-3-carboxylic acid butyl-(6-hydroxy-naphthalen-2-ylmethyl)-amide (1.03 g, 47%) as a tan solid, mp 126-128° C.

reactant | 6-butylaminomethyl-naphthalen-2-ol | C(CCC)NCC=1C=C2C=CC(=CC2=CC1)O | C15H19NO
reactant | 2-methy-benzofuran-3-carbonyl chloride | CC=1OC2=C(C1C(=O)Cl)C=CC=C2 | C10H7ClO2
product | 2-methyl-benzofuran-3-carboxylic acid butyl-(6-hydroxy-naphthalen-2-ylmethyl)-amide | 1.03 g, 47% | C(CCC)N(C(=O)C1=C(OC2=C1C=CC=C2)C)CC2=CC1=CC=C(C=C1C=C2)O | C25H25NO3
